US07405300B2
2-Chloro-1-(4-ethylphenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 and subsequently treated with hydrochloric acid as described in Example 44 to afford 1-(4-ethylphenyl)-2-(piperazin-1-y)-1H-indole-3-carboxaldehyde hydrochloride (39% yield) as a cream solid. ESI/MS 334 (M+H); RT=2.67 min; NMR 10.13 (1H, s); 8.11 (1H, d, J=6 Hz); 7.50 (4H, s); 7.24 (2H, m); 6.94 (1H, d, J=6 Hz); 3.42 (4H, m); 2.95 (4H, m); 2.76 (2H, q); 1.30 (3H, t).

reactant | 2-Chloro-1-(4-ethylphenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)CC | C17H14ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-ethylphenyl)-2-(piperazin-1-y)-1H-indole-3-carboxaldehyde hydrochloride | 39% yield | Cl.C(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | InChI=1S/C21H23N3O.ClH/c1-2-16-7-9-17(10-8-16)24-20-6-4-3-5-18(20)19(15-25)21(24)23-13-11-22-12-14-23;/h3-10,15,22H,2,11-14H2,1H3;1H
